US06344470B1
4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(2-methoxy-5-o-tolylphenyl)-N-propylamino]thiazole.
1.96 g of barium hydroxide, 0.52 g of o-tolyl-boronic acid and 40 mg of palladium diacetate are added in succession to 1 g of 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(5-bromo-2-methoxyphenyl)-N-propylamino]thiazole, in solution in 25 ml of ethanol and 0.8 ml of water. The reaction mixture is heated for 1 hour under reflux; after returning to room temperature, it is filtered on Celite. After evaporation of the solvent, the residue is taken up in dichloromethane. The organic phase is washed with water and then dried over sodium sulphate. The evaporation residue is purified on silica gel; eluent dichloromethane/cyclohexane 9/1 (v/v). The expected product is obtained in the form of a powder; m.p.=55° C.

reactant | barium hydroxide | 1.96 g | [OH-].[Ba+2].[OH-]
reactant | o-tolyl-boronic acid | 0.52 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(5-bromo-2-methoxyphenyl)-N-propylamino]thiazole | 1 g | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C1=C(C=CC(=C1)Br)OC | C21H22BrClN2O2S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 0.8 ml | O | H2O
catalyst | palladium diacetate | 40 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(2-methoxy-5-o-tolylphenyl)-N-propylamino]thiazole | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C1=C(C=CC(=C1)C1=C(C=CC=C1)C)OC | C28H29ClN2O2S
